US07700594B2
Ethyl 3-methylenecyclobutanecarboxylate
Iodoethane (7.5 mL, 93.0 mol) was added at rt to a mixture of 3-methylenecyclobutanecarboxylic acid (10.0 g, 80.0 mmol) and cesium carbonate (56.0 g, 170.0 mmol) in anhydrous N,N-dimethylformamide (500.00 mL) under an atmosphere of nitrogen. The reaction was stirred for 16 hr then partitioned between diethyl ether (1 L) and brine (1 L). The aqueous layer was extracted with diethyl ether (3×500 mL) and the combined organic phases washed with water (2×1L), dried over sodium sulfate, filtered and concentrated in vacuo to yield desired product 1H NMR (400 MHz, CDCl3) δ ppm 1.26 (t, 3H), 2.71-3.27 (m, 5H), 4.15 (q, J=7.07 Hz, 2H) and 4.53-4.96 (m, 2H).

reactant | Iodoethane | 93.0 mol, 7.5 mL | ICC | C2H5I
reactant | 3-methylenecyclobutanecarboxylic acid | 80.0 mmol, 10.0 g | C=C1CC(C1)C(=O)O | C6H8O2
reactant | cesium carbonate | 170.0 mmol, 56.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 500.00 mL | CN(C=O)C | C3H7NO
product | Ethyl 3-methylenecyclobutanecarboxylate | C=C1CC(C1)C(=O)OCC | C8H12O2
